US08563617B2
83.1 1-(Propane-1-sulfonyl)-azetidin-3-ol
To a cooled solution (0-5° C.) of azetidin-3-ol hydrochloride (1 g, 9.13 mmol) in 10 ml dichloromethane containing diisopropyl ethyl amine (2,391 ml, 13.69 mmol) was added dropwise a solution of propane-1-sulfonyl chloride (1,126 ml, 10.04 mmol) dissolved in 5 ml dichloromethane over an 1 h period. The mixture was allowed to warm up to room temperature and was stirred over night. Citric acid (10%) was added, extracted with dichloromethane, dried over MgSO4, filtered and the solvent was evaporated to obtain 597 mg of a yellow oil, which was purified by chromatography (yield 470 mg)

reactant | azetidin-3-ol hydrochloride | 9.13 mmol, 1 g | Cl.N1CC(C1)O
reactant | diisopropyl ethyl amine | 13.69 mmol, 2,391 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propane-1-sulfonyl chloride | 10.04 mmol, 1,126 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(Propane-1-sulfonyl)-azetidin-3-ol | 597 mg | C(CC)S(=O)(=O)N1CC(C1)O | C6H13NO3S
